US07772244B2
2-(Benzoyloxy)-2-(diethoxyphosphoryl)acetic acid
Glyoxylic acid monohydrate (20.10 g, 218 mmol) was suspended in diethyl phosphite (28.1 mL, 1.0 equiv) and warmed to 60° C., and held there for 5 h. The reaction was cooled to 0° C., diluted with dichloromethane (200 mL), and treated with pyridine (17.7 mL, 1.0 equiv) and benzoyl chloride (25.3 mL, 1.0 equiv). The ice bath was removed and stirring continued overnight. The reaction was concentrated, diluted with ethyl acetate, washed with water, then 1M potassium bisulfate, then brine, dried over magnesium sulfate, and concentrated to give an oil. The oil was triturated with ether to give a white powder which was filtered, washed with diethyl ether, and air dried to give 29.0 g (42%). 1H-NMR (CDCl3, 500 MHz) δ 1.35 (m, 6H), 4.31 (m, 4H), 5.82 (d, J=17.7, 1H), 7.46 (m, 2H), 7.60 (m, 1H), 7.94 (bs, 1H), 8.12 (m, 2H).

reactant | Glyoxylic acid monohydrate | 218 mmol, 20.10 g | O.C(C=O)(=O)O
reactant | diethyl phosphite | 28.1 mL, 1.0 equiv | P(OCC)(OCC)[O-]
reactant | pyridine | 17.7 mL, 1.0 equiv | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 25.3 mL, 1.0 equiv | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-(Benzoyloxy)-2-(diethoxyphosphoryl)acetic acid | C(C1=CC=CC=C1)(=O)OC(C(=O)O)P(=O)(OCC)OCC | C13H17O7P
